US06949542B2
8-Chloro-7-methyl-4-[3-(2-trifluoromethyl-pyridin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one
The title compound was prepared from (4-chloro-5-methyl-2-{3-oxo-3-[3-(2-trifluoromethyl-pyridin-4-yl)-phenyl]-propionylamino}-phenyl)-carbamic acid tert-butyl ester (Example M244) (0.26 g, 0.47 mmol) by treatment with TFA in CH2Cl2 according to the general procedure N. Obtained as an off-white solid (200 mg, 98%).

reactant | (4-chloro-5-methyl-2-{3-oxo-3-[3-(2-trifluoromethyl-pyridin-4-yl)-phenyl]-propionylamino}-phenyl)-carbamic acid tert-butyl ester | 0.47 mmol, 0.26 g | C(C)(C)(C)OC(NC1=C(C=C(C(=C1)C)Cl)NC(CC(C1=CC(=CC=C1)C1=CC(=NC=C1)C(F)(F)F)=O)=O)=O | C27H25ClF3N3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 8-Chloro-7-methyl-4-[3-(2-trifluoromethyl-pyridin-4-yl)-phenyl]-1,3-dihydro-benzo[b][1,4]diazepin-2-one | ClC=1C(=CC2=C(NC(CC(=N2)C2=CC(=CC=C2)C2=CC(=NC=C2)C(F)(F)F)=O)C1)C | C22H15ClF3N3O
